US07125865B2
Step 3: Preparation of 6-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole.
To a solution of (but-3-enyloxy)(tert-butyl)dimethylsilane, from this Example step 2, (148 mg, 0.79 mmol) in dry THF (0.25 mL) was added 9-BBN (0.5M 1.75 mL, 0.88 mmol) at 0° C. under N2. The mixture was stirred for 5 hours, then added to a mixture of 7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl trifluoromethanesulfonate, as prepared in this Example step 1, (300 mg, 0.79 mmol), K2CO3 (220 mg, 1.59 mmol), and dichlorobis(triphenylphosphene) palladium (32.5 mg, 0.039 mmol) in DMF (3 mL) under N2 in a sealed tube. The mixture was stirred overnight at 55° C. The reaction mixture was partitioned between ethyl acetate and water. Combined organic extracts were washed with water twice and brine and then dried over Na2SO4. The solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel using ethyl acetate and hexane (1:30) to give the title compound.

reactant | (but-3-enyloxy)(tert-butyl)dimethylsilane | C(CC=C)O[Si](C)(C)C(C)(C)C | C10H22OSi
reactant | 9-BBN | 0.88 mmol, 0.5M, 1.75 mL | B1C2CCCC1CCC2 | C8H15B
reactant | 7-propyl-3-(trifluoromethyl)-1,2-benzisoxazol-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)(F)F | C12H9F6NO4S
reactant | K2CO3 | 0.79 mmol, 300 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium | 0.039 mmol, 32.5 mg | [Pd] | Pd
product | 6-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)-7-propyl-3-(trifluoromethyl)-1,2-benzisoxazole | [Si](C)(C)(C(C)(C)C)OCCCCC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC | C21H32F3NO2Si
